US07915443B2
(S)-5-(1H-imidazol-2-ylethynyl)-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide
In a manner similar to that describe in Example 434, a mixture of (S)-5-ethynyl-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide and 2-iodo-1H-imidazole were reacted to give the title compound as a white solid (15 mg, 29%).

reactant | (S)-5-ethynyl-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide | C(#C)C=1C=NC=C(C(=O)N=[S@](C2=CC=CC=C2)(=O)C)C1 | C15H12N2O2S
reactant | 2-iodo-1H-imidazole | IC=1NC=CN1 | C3H3IN2
product | (S)-5-(1H-imidazol-2-ylethynyl)-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide | 15 mg, 29% | N1C(=NC=C1)C#CC=1C=NC=C(C(=O)N=[S@](C2=CC=CC=C2)(=O)C)C1 | C18H14N4O2S
